Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / garlic / simvastatin / 
pravastatin / Zetia
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
PEG tube placement on ___

attach
 
Pertinent Results:
___ 05:55AM BLOOD WBC-4.3 RBC-3.93 Hgb-12.3 Hct-38.8 
MCV-99* MCH-31.3 MCHC-31.7* RDW-12.8 RDWSD-47.3* Plt ___
___ 05:55AM BLOOD Glucose-92 UreaN-23* Creat-0.8 Na-143 
K-4.3 Cl-103 HCO3-31 AnGap-9*
___ 05:55AM BLOOD ALT-14 AST-22 AlkPhos-43 TotBili-0.8
___ 05:55AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.0

EGD:
Normal mucosa in the whole esophagus and duodenum. Gastrostomy 
placed in the stomach antrum. 

Flush PEG tube daily and after each use with 30 mcc of water. Do 
not place any gauze or other dressing underneath the PEG. Call 
___ for any PEG related issues that come up after 
discharge to be seen in PEG clinic. Take a high dose BID PPI 
orally or via G tube fore 2 weeks, then ok to resume standard 
daily dose. 
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: 
___ old woman with recently diagnosed ALS, history of atrial
fibrillation on apixaban, HTN, depression who presents with
dysphagia s/p G tube placement, being monitored overnight for
respiratory status given ALS.

#Severe malnutrition
#Dysphagia
G tube placed for dysphagia and malnutrition on ___ with no 
complications.
Nutrition was consulted for severe malnutrition and recommended 
Osmolite 1.5. We trialed ___ a can of this and she tolerated it 
well. Her daughter learned how to administer this from the RN. 
The Osmolite will be delivered to her home tomorrow for gravity 
feeds. She should take thiamine for 5 more days though her risk 
of refeeding syndrome is low due to only 5 lb weight loss over 
the past 2 months and replete electrolytes. Pt can continue 
taking food by mouth for now and will follow up for a repeat 
outpatient swallow study. 

#ALS
-cont riluzole
-close f/u with neurology

#Afib
-hold apixaban iso recently placed G tube. Can restart apixaban 
72h after PEG placement ___ pm)
-cont carvedilol

#HTN
-cont carvedilol

>30 min spent on discharge planning including face to face time. 


 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Calcium Carbonate 750 mg PO BID 
3. CARVedilol 6.25 mg PO BID 
4. Ondansetron ODT 4 mg PO BID 
5. Vitamin D 1000 UNIT PO DAILY 
6. riluzole 50 mg oral BID 
7. Multivitamins 1 TAB PO DAILY 
8. estradiol 10 mcg vaginal 1X/WEEK 

 
Discharge Medications:
1.  Lansoprazole Oral Disintegrating Tab 30 mg PO BID acid 
reflux Duration: 14 Days 
RX *lansoprazole 30 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
2.  Thiamine 100 mg PO Q24H Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once 
daily Disp #*5 Tablet Refills:*0 
3.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
4.  Calcium Carbonate 750 mg PO BID  
5.  CARVedilol 6.25 mg PO BID  
6.  estradiol 10 mcg vaginal 1X/WEEK  
7.  Multivitamins 1 TAB PO DAILY  
8.  Ondansetron ODT 4 mg PO BID  
9.  riluzole 50 mg oral BID  
10.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Severe Malnutrition
Dysphagia
ALS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for a PEG tube placement which was successful. 
We initiated tube feedings with a supplement called Osmolite. 
This will be delivered to your house in the next ___ hours. You 
should also take an acid reflux medicine for the next two weeks 
while you are adjusting to your PEG tube. 

Flush PEG tube daily and after each use with 30 mcc of water. Do 
not place any gauze or other dressing underneath the PEG. Call 
___ for any PEG related issues that come up after 
discharge to be seen in PEG clinic. 
 
Followup Instructions:
___